US06248765B1
3-(1H-Imidazol-4-yl)propyl 3-methylbutyl ether
5 mmol of sodium 3-(1-triphenylmethyl-1H-imidazol-4-yl)propanolate, 5 mmol of 3-methylbutane bromide and 0.5 mmol of 15-crown-15 (1, 4, 7, 10, 13-pentaoxacyclopentadecane) dissolved in 10 ml of anhydrous toluene are refluxed for 24 hours. The solvent is then evaporated off, and the residue dissolved in 10 ml THF and 30 ml 2N HCl and then heated at 70° C. for 2 hours. The THF is evaporated off under reduced pressure and triphenylmethanol is extracted with diethyl ether. The aqueous phase is neutralized with potassium carbonate and the product is extracted with diethyl ether. The organic extract is dried and evaporated, giving rise to an oil, which is crystallized as hydrogen maleate from diethyl ether and ethanol.

reactant | sodium 3-(1-triphenylmethyl-1H-imidazol-4-yl)propanolate | 5 mmol | C1(=CC=CC=C1)C(N1C=NC(=C1)CCC[O-])(C1=CC=CC=C1)C1=CC=CC=C1.[Na+]
reactant | 3-methylbutane bromide | 5 mmol | [Br-].CC(CC)C
reactant | 1, 4, 7, 10, 13-pentaoxacyclopentadecane | 0.5 mmol | O1CCOCCOCCOCCOCC1 | C10H20O5
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(1H-Imidazol-4-yl)propyl 3-methylbutyl ether | CC(CCOCCCC=1N=CNC1)C | C11H20N2O
